Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
fall off roof from 20 feet
 
Major Surgical or Invasive Procedure:
___:
1. Closed treatment left elbow dislocation.
2. Closed treatment radial head fracture.
3. Irrigation and debridement down to and inclusive of bone
    of all open tibia and fibula fracture.
4. Open reduction and internal fixation of fibula fracture,
    right lower extremity.
5. Internal fixation right distal tibia pilon fracture.
6. Intramedullary nailing of the hip fracture with TFN
    (trochanteric fixation) nail 11 x ___ x ___.

___:
1. Open reduction and internal fixation of articular
    fracture of the distal humerus, at the capitellum.
2. Open reduction and internal fixation of coronoid process
    of the proximal ulna.
3. Open reduction and internal fixation of radial head
    fracture.
4. Repair of lateral ligamentous complex with local tissue.

 
History of Present Illness:
Mr. ___ is a ___ year old right hand dominant Portugese 
speaking ___ worker who fell off a 20 foot roof. He had 
immediate right leg and hip pain as well as left elbow pain, and 
an open wound on his left leg. He denies LOC. Left elbow 
fracture/dislocation was reduced and splinted in ED.
 
Past Medical History:
None
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On discharge: 

Afebrile, All vital signs stable
General: Alert and oriented, No acute distress
Extremities: 
LUE: splint in place c/d/i, Sensation intact to light touch, 
Neurovascular intact distally, Capillary refill brisk
RLE:
 Incision: intact, no swelling/erythema/drainage
 Dressing: clean/dry/intact
 External fixator: pin sites clean/dry/intact, 
 Sensation intact to light touch, neurovascular intact distally, 
capillary refill brisk, motor intact
 
Pertinent Results:
___ 04:37PM BLOOD WBC-11.9* RBC-4.82 Hgb-13.1* Hct-40.7 
MCV-85 MCH-27.3 MCHC-32.3 RDW-13.4 Plt ___
___ 10:49PM BLOOD Neuts-89* Bands-1 Lymphs-5* Monos-5 Eos-0 
Baso-0 ___ Myelos-0
___ 04:37PM BLOOD ___ PTT-24.6 ___
___ 10:49PM BLOOD Glucose-159* UreaN-13 Creat-1.0 Na-140 
K-4.1 Cl-105 HCO3-25 AnGap-14
___ 10:49PM BLOOD Calcium-8.3* Phos-3.2 Mg-1.5*
___ 04:37PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:45AM BLOOD WBC-12.9* RBC-2.31*# Hgb-6.5*# Hct-19.4* 
MCV-84 MCH-27.9 MCHC-33.3 RDW-12.9 Plt ___
___ 07:45AM BLOOD Glucose-121* UreaN-8 Creat-0.7 Na-140 
K-4.0 Cl-103 HCO3-30 AnGap-11

___ CT LUE:
IMPRESSION: 
1. Displaced fracture fragments arising off the coronoid process 
and radial head as described. 
2. Minimally displaced capitellum fracture. 
3. Loose body situated between the ulna and trochlea. 

___ CT RLE:
IMPRESSION: 
1. Markedly comminuted distal tibial fracture extending through 
the plafond with disruption of the ankle mortise and multiple 
loose fragments.  
2. Overriding comminuted distal fibular fracture with proximal 
fragment 
extending to the skin surface.  
3. Impaction fracture of the superior-medial talus.
 
Brief Hospital Course:
Mr. ___ presented to the Emergency Department complaining 
of a 20 foot fall from a roof. He was evaluated by the Trauma 
surgery service and found to have only orthopaedic injuries. The 
Orthopaedics department evaluated the patient who was found to 
have a right intertrochanteric hip fracture, a right open tibia 
and fibula distal pilon fracture, a left elbow dislocation, and 
a left radial head fracture. He was admitted, consented, and 
taken directly to the Operating room for emergent surgery on his 
open fracture. Intra-operatively, he was closely monitored and 
remained hemodynamically stable. He tolerated the procedure well 
without any complication. Post-operatively, he was transferred 
to the ___ for observation overnight. He was stable overnight 
and was transferred to the floor on ___.
On ___, he was again prepped and brought to the operating 
room for managment of his elbow injury. Intra-operatively, he 
was closely monitored and remained hemodynamically stable. He 
tolerated the procedure well without any complication. 
Post-operatively, he was transferred to the PACU and floor for 
further recovery. On the floor, he remained hemodynamically 
stable with his pain well controlled. On ___ he was 
transfused with 2 units of packed red blood cells due to acute 
blood loss anemia with appropriate rise in hct.  He progressed 
with physical therapy to improve his strength and mobility. He 
was discharged in stable condition.
 
Medications on Admission:
None
 
Discharge Medications:
1. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO Qhs as needed for 
Constipation.
Disp:*60 Tablet(s)* Refills:*6*
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day.
Disp:*60 Capsule(s)* Refills:*6*
3. Enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) injection 
Subcutaneous DAILY (Daily) for 4 weeks.
Disp:*28 injection* Refills:*0*
4. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain.
Disp:*90 Tablet(s)* Refills:*0*
5. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO every six (6) 
hours as needed for fever or pain.  
6. Keflex ___ mg Capsule Sig: One (1) Capsule PO four times a 
day for 2 weeks.
Disp:*56 Capsule(s)* Refills:*0*
7. Wheelchair
1 wheelchair with elevated and removable leg rests and removable 
arm rests. 

Dx: R pilon fx, R IT frx, L elbow frx dislocation

8. Slideboard
Use as directed
9. commode
use as directed

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Right intertrochanteric hip fracture.
2. Right open tibia and fibula distal pilon fracture.
3. Left elbow dislocation.
4. Left radial head fracture.
5. Acute blood loss anemia

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - requires assistance or aid (walker 
or cane)

 
Discharge Instructions:
If you experience any shortness of breath, new redness, 
increased swelling, pain, or drainage, or have a temperature 
>101, please call your doctor or go to the emergency room for 
evaluation. 

You may not bear weight on your right leg and your left arm.  
Please use your crutches/walker for ambulation and your arm 
sling for comfort. 

Please resume all of the medications you took prior to your 
hospital admission. Take all medication as prescribed by your 
doctor.

You have been prescribed a narcotic pain medication.  Please 
take only as directed and do not drive or operate any machinery 
while taking this medication.  There is a 72 hour ___ 
through ___, 9am to 4pm) response time for prescription refil 
requests.  There will be no prescription refils on ___, 
___, or holidays.  Please plan accordingly.    

* Continue your Lovenox injections as prescribed to help prevent 
blood clots.  Please finish all of this medication. 

Feel free to call our office with any questions or concerns. 
Physical Therapy:
Activity:  Activity as tolerated
 Right lower extremity:  Non weight bearing
 Left upper extremity:  Non weight bearing

Treatments Frequency:
Pin care: Daily with ___ strength hydrogen peroxidoe and normal 
saline

Keep incisions clean and dry
 
Followup Instructions:
___